US08217029B2
122.i) [1-(3-Fluoro-6-methoxy-[1,5]naphthyridin-4-yl)-piperidin-4-yl]-carbamic acid benzyl ester
An oven-dried vial was charged with 8-bromo-7-fluoro-2-methoxy-[1,5]naphthyridine (797 mg, 3.40 mmol), palladium(II) acetate (31 mg, 0.136 mmol), DPEphos (146 mg, 0.272 mmol), K3PO4 (1.81 g, 8.50 mmol) and piperidin-4-yl-carbamic acid benzyl ester (875 mg, 3.40 mmol). The resulting mixture was purged with argon for several min. Dioxane (11 mL) was then added via syringe and the resulting suspension was purged with argon for 3 min. The mixture was then heated at 85° C. overnight. The solvent was removed in vacuo and the residue was extracted with EA/water. The org. layer was washed with brine, dried over MgSO4 and concentrated. To the resulting solid TBME and a few drops of DCM and MeOH were added and the mixture was sonicated for 5 min and filtered to afford the title intermediate as a pale yellow foam (293 mg, 21%).

reactant | 8-bromo-7-fluoro-2-methoxy-[1,5]naphthyridine | 3.40 mmol, 797 mg | BrC=1C(=CN=C2C=CC(=NC12)OC)F | C9H6BrFN2O
reactant | DPEphos | 0.272 mmol, 146 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
reactant | K3PO4 | 8.50 mmol, 1.81 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | piperidin-4-yl-carbamic acid benzyl ester | 3.40 mmol, 875 mg | C(C1=CC=CC=C1)OC(NC1CCNCC1)=O | C13H18N2O2
catalyst | palladium(II) acetate | 0.136 mmol, 31 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [1-(3-Fluoro-6-methoxy-[1,5]naphthyridin-4-yl)-piperidin-4-yl]-carbamic acid benzyl ester | 293 mg, 21% | C(C1=CC=CC=C1)OC(NC1CCN(CC1)C1=C(C=NC2=CC=C(N=C12)OC)F)=O | C22H23FN4O3
